US08664217B2
3-{(2-Nitrobenzenesulfonyl)-[2-(7-oxo-7H-furo[2,3-c]pyridin-6-yl)ethyl]amino}propyl methanesulfonate (480 mg, 0.96 mmol) and sodium iodide (720 mg, 4.8 mmol) were added to acetone (20 ml), and heated under reflux for 5 hours. The reaction mixture was cooled to room temperature, water was added, and extraction with dichloromethane was performed. The organic layer was dried over sodium sulfate, and concentrated under reduced pressure to thereby obtain 474 mg (yield: 93%) of N-(3-iodopropyl)-2-nitro-N-[2-(7-oxo-7H-furo[2,3-c]pyridin-6-yl)ethyl]benzenesulfonamide as a yellow amorphous solid.

reactant | 3-{(2-Nitrobenzenesulfonyl)-[2-(7-oxo-7H-furo[2,3-c]pyridin-6-yl)ethyl]amino}propyl methanesulfonate | 0.96 mmol, 480 mg | CS(=O)(=O)OCCCN(CCN1C(C2=C(C=C1)C=CO2)=O)S(=O)(=O)C2=C(C=CC=C2)[N+](=O)[O-] | C19H21N3O9S2
reactant | sodium iodide | 4.8 mmol, 720 mg | [I-].[Na+]
reactant | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | O | H2O
product | N-(3-iodopropyl)-2-nitro-N-[2-(7-oxo-7H-furo[2,3-c]pyridin-6-yl)ethyl]benzenesulfonamide | 474 mg, yield: 93% | ICCCN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CCN1C(C2=C(C=C1)C=CO2)=O | C18H18IN3O6S
